US06348474B1
Methyl 3-(2,4-dichlorobenzyl)-2-methylindolizine-6-carboxylate
To a suspension of anhydrous aluminum chloride (3.18 g) in dichloromethane (19 ml) was added 2,4-dichlorobenzoyl chloride (2.93 g) under ice-cooling, and the mixture was stirred for 10 min. To this solution was added methyl 2-methylindolizine-6-carboxylate (1.89 g) and the mixture was stirred for 4 hr at room temperature. The reaction mixture was slowly poured into ice water and the resulting product was extracted with ethyl acetate. The organic layer was washed successively with water, a saturated aqueous sodium hydrogencarbonate solution and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=5/1) to give the objective compound (2.39 g) as a pale-yellow solid.

reactant | aluminum chloride | 3.18 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2,4-dichlorobenzoyl chloride | 2.93 g | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
reactant | methyl 2-methylindolizine-6-carboxylate | 1.89 g | CC=1C=C2C=CC(=CN2C1)C(=O)OC | C11H11NO2
solvent | dichloromethane | 19 ml | ClCCl | CH2Cl2
product | Methyl 3-(2,4-dichlorobenzyl)-2-methylindolizine-6-carboxylate | 2.39 g | ClC1=C(CC2=C(C=C3C=CC(=CN23)C(=O)OC)C)C=CC(=C1)Cl | C18H15Cl2NO2
